US05783572
A mixture of 5-chloromethyl-1H-1,2,3-benzotriazole (Synth. Commun., (1993), 23, 2019) (1.34 g, 8.0 mmol) and dimethylamine (33% solution in ethanol, 10 mL) was heated in an autoclave at 100° C. for 12 hours. The solvent was removed under reduced pressure, and the residue was dissolved in saturated aqueous sodium bicarbonate. A continuous extraction using ethyl acetate was performed, and the resulting solution of the product was dried (MgSO4) and concentrated under reduced pressure to give 5-(N,N-dimethylaminomethyl)-1H-1,2,3-benzotriazole (890 mg, 63%) as a brown hygroscopic gum.

reactant | 5-chloromethyl-1H-1,2,3-benzotriazole | 8.0 mmol, 1.34 g | ClCC1=CC2=C(NN=N2)C=C1 | C7H6ClN3
reactant | dimethylamine | 10 mL | CNC | C2H7N
product | 5-(N,N-dimethylaminomethyl)-1H-1,2,3-benzotriazole | 890 mg, 63% | CN(C)CC1=CC2=C(NN=N2)C=C1 | C9H12N4
